US05908858
85(i) 4-Ethylthio-N-(4-sulfamoylbenzylidene)aniline
Following a procedure similar to that described in Example 1(i), but using 4-sulfamoylbenzaldehyde and 4-ethylthioaniline as starting materials, the title compound was obtained as a yellow powder (yield 56%).

reactant | 4-sulfamoylbenzaldehyde | S(N)(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | 4-ethylthioaniline | C(C)SC1=CC=C(N)C=C1 | C8H11NS
product | 4-Ethylthio-N-(4-sulfamoylbenzylidene)aniline | C(C)SC1=CC=C(N=CC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C15H16N2O2S2
